US06921763B2
A suspension of 1-(2-chloro-4-pyridyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.95 g, 0.00256 mol) in dimethoxyethane (30 mL) and water (60 mL) was reacted with N2-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-2-indolecarboxamide (1.14 g, 0.00281 mol), sodium carbonate (0.68 g, 0.00640 mol) and tetrakis (triphenylphosphine )palladium (0) (0.30 g, 0.00026 mol) at 80° C. for 3 days. The solid was filtered and washed with water. The solid was triturated with ethyl acetate (75 mL) for 6 hours and filtered, washing with ethyl acetate (20 mL). The solid was then triturated with methanol (75 mL) for 6 hours and filtered, washing with methanol(20 mL). The solid was dried in vacuo to give crude N2-{4-[4-amino-1-(2-chloro-4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (0.672 g, 0.00128 mol) as a tan solid:

reactant | 1-(2-chloro-4-pyridyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00256 mol, 0.95 g | ClC1=NC=CC(=C1)N1N=C(C=2C1=NC=NC2N)I | C10H6ClIN6
reactant | N2-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-2-indolecarboxamide | 0.00281 mol, 1.14 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)C=1N(C2=CC=CC=C2C1)C | C23H27BN2O4
reactant | sodium carbonate | 0.00640 mol, 0.68 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | water | 60 mL | O | H2O
product | N2-{4-[4-amino-1-(2-chloro-4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.00128 mol, 0.672 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=CC(=NC=C2)Cl | C27H21ClN8O2
